US04282169
Preparation of 1-Trichloroacetimidoyl-2-(t-Butoxycarbonyl)hydrazine
A mixture of 2.9 g (0.025 mole) t-butyl carbazate and 10 ml (14.3 g, 0.08 mole) methyl 2,2,2-trichloroacetimidate was stirred 16 hours at room temperature. The solid that was left was washed with petroleum ether and dried to give 6.0 g (86% yield mp 150° C.). The structure was confirmed via infrared and elemental analysis.

reactant | t-butyl carbazate | 0.025 mole, 2.9 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | methyl 2,2,2-trichloroacetimidate | 0.08 mole, 10 ml, 14.3 g | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
product | 1-Trichloroacetimidoyl-2-(t-Butoxycarbonyl)hydrazine | 86% yield | ClC(C(=N)NNC(=O)OC(C)(C)C)(Cl)Cl | C7H12Cl3N3O2
